US06982348B2
To a solution of (1RS,2RS)-2-amino-1-(2-phenyl-1,3-thiazol-4-yl)-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-1-propanol (310 mg, 0.73 mmol) in acetonitrile (10 ml) were added 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid (132 mg, 0.70 mmol) and 1-hydroxybenzotriazole monohydrate (112 mg, 0.73 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (140 mg, 0.73 mmol) was finally added. The mixture was stirred at room temperature for 3 days. The mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1, 2:1) and recrystallization (hexane-ethyl acetate) to give N-{(1RS,2RS)-2-hydroxy-2-(2-phenyl-1,3-thiazol-4-yl)-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxamide (247 mg, 59%) as colorless crystals.

reactant | (1RS,2RS)-2-amino-1-(2-phenyl-1,3-thiazol-4-yl)-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-1-propanol | 0.73 mmol, 310 mg | NC(C(O)C=1N=C(SC1)C1=CC=CC=C1)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C20H18F4N2O2S
reactant | 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid | 0.70 mmol, 132 mg | C=1(C=CC=C2C1C=CCCC2)C(=O)O | C12H12O2
reactant | 1-hydroxybenzotriazole monohydrate | 0.73 mmol, 112 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.73 mmol, 140 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{(1RS,2RS)-2-hydroxy-2-(2-phenyl-1,3-thiazol-4-yl)-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxamide | 247 mg, 59% | OC(C(CC1=CC(=CC=C1)OC(C(F)F)(F)F)NC(=O)C=1C=CC=C2C1C=CCCC2)C=2N=C(SC2)C2=CC=CC=C2 | C32H28F4N2O3S
